US05434248
N-(N-AcetylTyrosinyl-Valinyl-Alaninyl)-3-amino-4-oxo-7-phenyl heptanoic acid:
N-(N-AcetylTyrosinyl-Valinyl-Alaninyl)-3-amino-4-oxo-7-phenyl heptanoic acid t-butyl ester (12 mg) was stirred with MeOH (0.5 mL), water(0.2 mL), and 2N NaOH (0.1 mL) overnight. The mixture was acidified with 2N HCl and was extracted with EtOAc (3×5 mL). The solvent was evaporated and the product was recrystilized from acetone/hexane to provide the title compound (8 mg).

reactant | N-(N-AcetylTyrosinyl-Valinyl-Alaninyl)-3-amino-4-oxo-7-phenyl heptanoic acid t-butyl ester | 12 mg | C(C)(C)(C)OC(CC(C(CCCC1=CC=CC=C1)=O)NC([C@@H](NC([C@@H](NC([C@@H](NC(C)=O)CC1=CC=C(C=C1)O)=O)C(C)C)=O)C)=O)=O | C36H50N4O8
reactant | MeOH | 0.5 mL | CO | CH4O
reactant | NaOH | 2N, 0.1 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 0.2 mL | O | H2O
product | N-(N-AcetylTyrosinyl-Valinyl-Alaninyl)-3-amino-4-oxo-7-phenyl heptanoic acid | 8 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)NC(CC(=O)O)C(CCCC1=CC=CC=C1)=O | C32H42N4O8
